US06809110B2
In analogy to the procedure described in example 4 d], [rac]-2-ethoxy-3-(4-hydroxy-3-methyl-phenyl)-propionic acid ethyl ester (example 4 c]) was reacted with 4-chloromethyl-2-(4-trifluoromethyl-phenyl)-thiazole (prepared from 4-trifluoromethyl-thiobenzamide and 1,3-dichloroacetone in analogy to the procedure described in example 4 a]) in acetonitrile in the presence of cesium carbonate to yield [rac]-2-ethoxy-3-{3-methyl-4-[2-(4-trifluoromethyl-phenyl)-thiazol-4-ylmethoxy]-phenyl}-propionic acid ethyl ester, which was further saponified in analogy to the procedure described in example 4 e], to yield [rac]-2-ethoxy-3-{3-methyl-4-[2-(4-trifluoromethyl-phenyl)-thiazol-4-ylmethoxy]-phenyl}-propionic acid as colorless gum.

reactant | [rac]-2-ethoxy-3-(4-hydroxy-3-methyl-phenyl)-propionic acid ethyl ester | C(C)OC(C(CC1=CC(=C(C=C1)O)C)OCC)=O | C14H20O4
reactant | 4-chloromethyl-2-(4-trifluoromethyl-phenyl)-thiazole | ClCC=1N=C(SC1)C1=CC=C(C=C1)C(F)(F)F | C11H7ClF3NS
reactant | 4-trifluoromethyl-thiobenzamide | FC(C1=CC=C(C(=S)N)C=C1)(F)F | C8H6F3NS
reactant | 1,3-dichloroacetone | ClCC(=O)CCl | C3H4Cl2O
reactant | cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | acetonitrile | C(C)#N | C2H3N
product | [rac]-2-ethoxy-3-{3-methyl-4-[2-(4-trifluoromethyl-phenyl)-thiazol-4-ylmethoxy]-phenyl}-propionic acid ethyl ester | C(C)OC(C(CC1=CC(=C(C=C1)OCC=1N=C(SC1)C1=CC=C(C=C1)C(F)(F)F)C)OCC)=O | C25H26F3NO4S
